US08372867B2
N-{4-[(hydroxyimino)methyl]benzyl}acetamide (0.5 g) was dissolved in N,N-dimethylformamide (20 mL), N-chlorosuccinimide (0.38 g) was added to this solution, and the mixture was stirred for two hours at room temperature. To the reaction solution, 1,3-dichloro-5-[1-(trifluoromethyl)vinyl]benzene (0.75 g) was added, and after the mixture was cooled to 0° C., a solution of triethylamine (0.58 g) in N,N-dimethylformamide (2 mL) was added dropwise to the mixture, which was then stirred for 8 hours at room temperature. After addition of water and extraction with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to yield N-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]benzyl}acetamide (0.3 g).

reactant | N-{4-[(hydroxyimino)methyl]benzyl}acetamide | 0.5 g | ON=CC1=CC=C(CNC(C)=O)C=C1 | C10H12N2O2
reactant | N-chlorosuccinimide | 0.38 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1,3-dichloro-5-[1-(trifluoromethyl)vinyl]benzene | 0.75 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
reactant | triethylamine | 0.58 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]benzyl}acetamide | 0.3 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(CNC(C)=O)C=C1)C(F)(F)F | C19H15Cl2F3N2O2
